US07576115B2
1) Synthesis of 1-[5-(3-bromo-4-fluorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone
2-Oxopropanal methylhydrazone (10.56 mmol, 1.06 g) and (3-bromo-4-fluorophenyl)(oxo)acetaldehyde (10.56 mmol, 2.44 g) synthesized in Reference Synthetic Example 9 were dissolved in acetic acid (37 mL) and stirred at 100° C. for 4.5 hours. Then, the solvent was evaporated, and the residue was dried by means of a vacuum pump and purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1) then by silica gel thin layer chromatography (chloroform) and by silica gel thin layer chromatography (n-hexane/ethyl acetate=3/1) to give the desired product as a brown solid (160 mg, yield 5%).

reactant | 2-Oxopropanal methylhydrazone | 10.56 mmol, 1.06 g | CNN=CC(C)=O | C4H8N2O
reactant | (3-bromo-4-fluorophenyl)(oxo)acetaldehyde | 10.56 mmol, 2.44 g | BrC=1C=C(C=CC1F)C(C=O)=O | C8H4BrFO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | acetic acid | 37 mL | C(C)(=O)O | C2H4O2
product | 1-[5-(3-bromo-4-fluorophenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone | 160 mg, yield 5% | BrC=1C=C(C=CC1F)C1=C(C(=NN1C)C(C)=O)O | C12H10BrFN2O2
